US07754742B2
(3-Chloro-4-methyl-benzyl)-carbamic acid tert-butyl ester
Add di-tert-butyl-dicarbonate (15.3 g, 70.0 mmol) to 3-chloro-4-methylbenzylamine (9.9 g, 63.6 mmol) in tert-butyl alcohol (250 mL) at room temperature. Stir at room temperature for 2 hrs and heat at 50° C. for 3 hrs. Concentrate the reaction mixture and partition between water and ethyl acetate. Separate the organic layer and extract the aqueous with ethyl acetate (2×). Combine the organic layers, wash with brine, dry over sodium sulfate, and concentrate to provide the title compound (16.2 g, 63.3 mmol). MS (m/z): 278 (M+23).

reactant | di-tert-butyl-dicarbonate | 70.0 mmol, 15.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-chloro-4-methylbenzylamine | 63.6 mmol, 9.9 g | ClC=1C=C(CN)C=CC1C | C8H10ClN
solvent | tert-butyl alcohol | 250 mL | C(C)(C)(C)O | C4H10O
product | (3-Chloro-4-methyl-benzyl)-carbamic acid tert-butyl ester | 63.3 mmol, 16.2 g | C(C)(C)(C)OC(NCC1=CC(=C(C=C1)C)Cl)=O | C13H18ClNO2
